US05786354
2-Cyclopentyloxy-4-methylpyridine
To a cold (0° C.) suspension of sodium hydride (2 g, 50 mmol) in DMF (20 ml) was added dropwise cyclopentanol (4.99 ml, 55 mmol) and the solution allowed to warm to RT and stirred for 1 hr. Intermediate 13 (8.6 g, 49.67 mmol) was added dropwise and the reaction mixture heated at 80° C. for 2 hr. After cooling, H2O (100 ml) was added, the mixture extracted into Et2O (3×100 ml), washed (brine), dried (MgSO4) then evaporated to dryness to give an orange oil. Chromatography (SiO2 ; hexane/Et2O, 50:50) afforded the title compound (7.5 g) as an orange oil. m/z 179 (M+1). δH (CDCl3) 1.5-2.0 (8H, m, (CH2)4), 2.25 (3H, s, CH3), 5.35 (1H, m, OCH), 6.45 (1H, s, pyridine H2), 6.65 (1H, d, pyridineH5), and 7.96 (1H, d, pyridine H6))

reactant | sodium hydride | 50 mmol, 2 g | [H-].[Na+]
reactant | cyclopentanol | 55 mmol, 4.99 ml | C1(CCCC1)O | C5H10O
reactant | H2O | 100 ml | O | H2O
reactant | hexane Et2O | CCCCCC.CCOCC
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-Cyclopentyloxy-4-methylpyridine | 7.5 g | C1(CCCC1)OC1=NC=CC(=C1)C | C11H15NO
